US04760086
To a solution of 3-hydroxy-N-[2,2-di-(4-methoxyphenyl)ethenyl]-5-trifluoromethylbenzo[b]thiophe ne-2-carboxamide (200 mg) in dichloromethane (30 ml) cooled to -50° C. was added dropwise with stirring N boron tribromide in dichloromethane (2.9 ml). The reaction mixture was stirred at -50° C. for one hour, then the temperature allowed to rise to 0° C., and the reaction quenched by pouring into ice-saturated sodium hydrogencarbonate solution. The yellow solid that separated out was filtered, washed thoroughly with hexane and dried in vacuo to yield 104 mg (55%) of 3-hydroxy-N-[2,2-di-(4-hydroxyphenyl)ethenyl]-5-trifluoromethylbenzo[b]thiophene-2-carboxamide; m/z 471 (M+).

reactant | 3-hydroxy-N-[2,2-di-(4-methoxyphenyl)ethenyl]-5-trifluoromethylbenzo[b]thiophe ne-2-carboxamide | 200 mg | OC=1C2=C(SC1C(=O)NC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C=CC(=C2)C(F)(F)F | C26H20F3NO4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.9 ml | ClCCl | CH2Cl2
product | 3-hydroxy-N-[2,2-di-(4-hydroxyphenyl)ethenyl]-5-trifluoromethylbenzo[b]thiophene-2-carboxamide | 104 mg, 55% | OC=1C2=C(SC1C(=O)NC=C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C=CC(=C2)C(F)(F)F | C24H16F3NO4S
